US05198430
Preparation of Silybinin-2,6-di-O-methyl-β-cyclodextrin-Complex (Molar Ratio 1:2.2)
The method of Example 6 was repeated except that 110 g 2,6-di-O-methyl-β-cyclodextrin (DIMEB; 82 mmol) and 18 g Silybinin (37 mmol) were used.

reactant | 2,6-di-O-methyl-β-cyclodextrin | 82 mmol, 110 g | COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)OC)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)OC)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)OC)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)OC)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)OC)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)OC)COC)COC)COC)COC)COC)COC)OC)O | C56H98O35
reactant | Silybinin | 37 mmol, 18 g | COC1=C(C=CC(=C1)[C@@H]2[C@H](OC3=C(O2)C=C(C=C3)[C@@H]4[C@H](C(=O)C5=C(C=C(C=C5O4)O)O)O)CO)O | C25H22O10
product | Silybinin 2,6-di-O-methyl-β-cyclodextrin | COC1=C(C=CC(=C1)[C@@H]2[C@H](OC3=C(O2)C=C(C=C3)[C@@H]4[C@H](C(=O)C5=C(C=C(C=C5O4)O)O)O)CO)O.COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)OC)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)OC)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)OC)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)OC)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)OC)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)OC)COC)COC)COC)COC)COC)COC)OC)O | InChI=1S/C56H98O35.C25H22O10/c1-64-15-22-36-29(57)43(71-8)50(78-22)86-37-23(16-65-2)80-52(45(73-10)30(37)58)88-39-25(18-67-4)82-54(47(75-12)32(39)60)90-41-27(20-69-6)84-56(49(77-14)34(41)62)91-42-28(21-70-7)83-55(48(76-13)35(42)63)89-40-26(19-68-5)81-53(46(74-11)33(40)61)87-38-24(17-66-3)79-51(85-36)44(72-9)31(38)59;1-32-17-6-11(2-4-14(17)28)24-20(10-26)33-16-5-3-12(7-18(16)34-24)25-23(31)22(30)21-15(29)8-13(27)9-19(21)35-25/h22-63H,15-21H2,1-14H3;2-9,20,23-29,31H,10H2,1H3/t22-,23-,24-,25-,26-,27-,28-,29+,30+,31+,32+,33+,34+,35+,36-,37-,38-,39-,40-,41-,42-,43-,44-,45-,46-,47-,48-,49-,50-,51-,52-,53-,54-,55-,56-;20-,23+,24-,25-/m11/s1
